US08530504B2
3-[2,6-Dimethoxy-4-(methoxymethyl)phenyl]-6-methoxy-N-propyl-N-pyridin-4-ylpyrazolo[5,1-b][1,3]thiazole-7-amine
To a 1,4-dioxane (0.7 mL) solution of 3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxy-N-propylpyrazolo[5,1-b][1,3]thiazole-7-amine (70 mg, 0.179 mmol) were added 4-chloropyridine hydrochloride (32.2 mg, 0.215 mmol), sodium tert-butoxide (20.6 mg, 0.215 mmol), potassium phosphate tribasic (64.6 mg, 0.304 mmol), tris(dibenzylideneacetone)dipalladium (8.2 mg, 0.009 mmol), and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (7.77 mg, 0.0134 mmol), and the mixture was stirred at 100° C. for seven hours. After the reaction mixture was returned to room temperature, water was added to the reaction mixture, and the reaction mixture was extracted with ethyl acetate, and the solvent was distilled off under reduced pressure. The residue was purified by medium pressure amino silica gel column chromatography (n-heptane/ethyl acetate: 10% then 80%) to obtain the title compound (49.4 mg, 0.105 mmol).

reactant | 3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxy-N-propylpyrazolo[5,1-b][1,3]thiazole-7-amine | 0.179 mmol, 70 mg | COC1=C(C(=CC(=C1)COC)OC)C=1N2C(SC1)=C(C(=N2)OC)NCCC | C19H25N3O4S
reactant | 4-chloropyridine hydrochloride | 0.215 mmol, 32.2 mg | Cl.ClC1=CC=NC=C1
reactant | sodium tert-butoxide | 0.215 mmol, 20.6 mg | CC(C)([O-])C.[Na+]
reactant | potassium phosphate tribasic | 0.304 mmol, 64.6 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.0134 mmol, 7.77 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.009 mmol, 8.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
solvent | 1,4-dioxane | 0.7 mL | O1CCOCC1 | C4H8O2
product | 3-[2,6-Dimethoxy-4-(methoxymethyl)phenyl]-6-methoxy-N-propyl-N-pyridin-4-ylpyrazolo[5,1-b][1,3]thiazole-7-amine | 0.105 mmol, 49.4 mg | COC1=C(C(=CC(=C1)COC)OC)C=1N2C(SC1)=C(C(=N2)OC)N(C2=CC=NC=C2)CCC | C24H28N4O4S
